### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix): add the generalized E-type Cartan matrix family

### PR DESCRIPTION
**Pull request by sdflkjssl**
This PR adds a generalized family `CartanMatrix.E n`, obtained by continuing the Dynkin-diagram pattern of the exceptional matrices E₆, E₇, and E₈.

For `n ≥ 3`, it proves the uniform determinant formula:

```lean
theorem E_det {n : ℕ} (hn : 3 ≤ n) : (E n).det = 9 - n
```

## Public API

- `CartanMatrix.E (n : ℕ)` is the generalized E-type Cartan matrix.
- `CartanMatrix.E_det` gives its determinant for `n ≥ 3`.
- `CartanMatrix.E_diag`, `CartanMatrix.E_off_diag_nonpos`, `CartanMatrix.E_transpose`, `CartanMatrix.E_isSymm`, and `CartanMatrix.isSimplyLaced_E` hold uniformly for all `n`.
- `CartanMatrix.E_six_eq`, `CartanMatrix.E_seven_eq`, and `CartanMatrix.E_eight_eq` identify `E 6`, `E 7`, and `E 8` with the usual explicit matrices.
- The fixed-size lemmas `E₆_diag`, `E₆_off_diag_nonpos`, `E₆_transpose`, `E₆_isSymm`, `isSimplyLaced_E₆` and their E₇/E₈ counterparts are deprecated in favor of the uniform statements above.

The generalized family is the canonical definition. The former constants `CartanMatrix.E₆`, `CartanMatrix.E₇`, and `CartanMatrix.E₈` are retained as deprecated abbreviations for `E 6`, `E 7`, and `E 8`, and the fixed-size theorem names as deprecated aliases of the uniform statements, to preserve compatibility.

The downstream definitions `LieAlgebra.e₆`, `LieAlgebra.e₇`, and `LieAlgebra.e₈` in `SerreConstruction.lean` now use `CartanMatrix.E 6`, `CartanMatrix.E 7`, and `CartanMatrix.E 8`.

The fixed-size determinant theorems `E₆_det`, `E₇_det`, and `E₈_det` are retained (they are also instances of `E_det`); following #42119, their proofs use `norm_det` after rewriting with the corresponding explicit-matrix equality lemmas.

## Proof outline

Passing from `E n` to `E (n + 1)` amounts to appending a leaf to the end of the path: `extendPath` places the new node at `Fin.last`, joined by a `-1` edge to the previous final node, and `E_succ : E (n + 1) = extendPath (E n)` holds for `n ≥ 4`. Row expansion along the new row (`Matrix.det_succ_row`) gives the recurrence

```text
dₙ₊₂ = 2dₙ₊₁ - dₙ.
```

The initial values are `d₃ = 6`, `d₄ = 5`, and `d₅ = 4`. A two-step induction gives `dₙ = 9 - n` for every `n ≥ 4`, while `n = 3` is handled by a direct computation.

The auxiliary definitions describing the path extension are private, while the recurrence `det_E_add_two` is public.

## Review changes

The definition of `E` uses `Matrix.of`, consistently with the other infinite Cartan matrix families in this file. Following review, `reverseE` was dropped: `extendPath` now appends the new node at the end of the path (via `Fin.lastCases`), so `E_succ` works directly on `E`, and the determinant recurrence follows from `Matrix.det_succ_row`.

The separate definitions of `E₆`, `E₇`, and `E₈` are replaced by deprecated abbreviations for `E 6`, `E 7`, and `E 8`. The lemmas `E_six_eq`, `E_seven_eq`, and `E_eight_eq` identify these canonical matrices with their usual explicit forms.

Following review, the fixed-size diagonal, off-diagonal, transpose, symmetry, and simply-laced lemmas are generalized to statements uniform in `n` (`E_diag`, `E_off_diag_nonpos`, `E_transpose`, `E_isSymm`, `isSimplyLaced_E`), with the old fixed-size names kept as deprecated aliases.

The branch was also merged with current master (including the `Wanted` mechanism of #42284 and the toolchain bump), so that CI builds against the latest mathlib.

## AI usage

Codex with GPT 5.6-Sol xhigh was used to assist implementing the Lean changes, which are then meticulously reviewed and adjusted by the author to align with mathlib4 styles before pushing.

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Cartan.lean [hunk 1]
```diff
@@ -51,6 +53,16 @@ open Matrix
 
 /-! ### Exceptional Cartan matrices -/
 
+/-- The generalized Cartan matrix of type Eₙ, extending E₆, E₇, E₈ by the same Dynkin-diagram
+pattern. -/
+def E (n : ℕ) : Matrix (Fin n) (Fin n) ℤ :=
+  fun i j =>
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Cartan.lean]:
```suggestion
  .of fun i j =>
```

File: Mathlib/LinearAlgebra/Matrix/Cartan.lean
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Cartan.lean]: In Mathlib we try to have only one way to spell things so I propose we drop this and instead have a lemma:
```suggestion
lemma E_six_eq :
    E 6 = !![ 2,  0, -1,  0,  0,  0;
              0,  2,  0, -1,  0,  0;
             -1,  0,  2, -1,  0,  0;
              0, -1, -1,  2, -1,  0;
              0,  0,  0, -1,  2, -1;
              0,  0,  0,  0, -1,  2] := by decide
```
Similarly for `E₇` and `E₈`.

Comment (sdflkjssl) [reply Mathlib/LinearAlgebra/Matrix/Cartan.lean]: Agreed, thanks. I removed the separate definitions `E₆`, `E₇`, and `E₈`, and added `E_six_eq`, `E_seven_eq`, and `E_eight_eq` instead. I kept the existing theorem names, but their statements now use `E 6`, `E 7`, and `E 8`. I also updated the downstream uses in `SerreConstruction`; the determinant proofs still use `norm_det` after rewriting with the corresponding equality lemmas.

File: Mathlib/LinearAlgebra/Matrix/Cartan.lean (hunk 1 above)
Comment (sdflkjssl) [reply Mathlib/LinearAlgebra/Matrix/Cartan.lean]: Done, thanks! I changed the definition of `E` to use `.of`. To accommodate `Matrix.of`, I also replaced the broad `simp` calls in `reverseE_succ` with controlled `simp only` steps, since direct unfolding otherwise reached the maximum recursion depth.

**Comment by sdflkjssl** [comment]
-awaiting-author

**Comment by wwylele** [comment]
Could you add deprecation for removed items? (See the declaration diff at https://github.com/leanprover-community/mathlib4/pull/42157#issuecomment-5097304192)

**Comment by sdflkjssl** [comment]
> Could you add deprecation for removed items? (See the declaration diff at [#42157 (comment)](https://github.com/leanprover-community/mathlib4/pull/42157#issuecomment-5097304192))

Done, thanks. I restored `E₆`, `E₇`, and `E₈` as deprecated abbreviations for `E 6`, `E 7`, and `E 8`, with deprecation messages pointing to the corresponding canonical expressions. This preserves compatibility while keeping `E n` as the preferred API.

File: Mathlib/LinearAlgebra/Matrix/Cartan.lean [hunk 2]
```diff
@@ -214,11 +235,11 @@ theorem D_four : D 4 = !![ 2, -1,  0,  0;
 
 /-! ### Exceptional matrix diagonal entries -/
 
-@[simp] theorem E₆_diag (i : Fin 6) : E₆ i i = 2 := by fin_cases i <;> decide
+@[simp] theorem E₆_diag (i : Fin 6) : E 6 i i = 2 := by fin_cases i <;> decide
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/Cartan.lean:238]: Can you generalize all these lemmas to one lemma `E_diag` for general `n : Nat` and `i : Fin n`?

File: Mathlib/LinearAlgebra/Matrix/Cartan.lean [hunk 3]
```diff
@@ -227,14 +248,14 @@ theorem D_four : D 4 = !![ 2, -1,  0,  0;
 
 /-! ### Exceptional matrix off-diagonal entries -/
 
-theorem E₆_off_diag_nonpos (i j : Fin 6) (h : i ≠ j) : E₆ i j ≤ 0 := by
-  fin_cases i <;> fin_cases j <;> simp_all [E₆]
+theorem E₆_off_diag_nonpos (i j : Fin 6) (h : i ≠ j) : E 6 i j ≤ 0 := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/Cartan.lean:251]: Idem dito

File: Mathlib/LinearAlgebra/Matrix/Cartan.lean [hunk 4]
```diff
@@ -244,30 +265,122 @@ theorem G₂_off_diag_nonpos (i j : Fin 2) (h : i ≠ j) : G₂ i j ≤ 0 := by
 
 /-! ### Exceptional matrix transpose properties -/
 
-@[simp] theorem E₆_transpose : E₆.transpose = E₆ := by decide
-@[simp] theorem E₇_transpose : E₇.transpose = E₇ := by decide
-@[simp] theorem E₈_transpose : E₈.transpose = E₈ := by decide
+@[simp] theorem E₆_transpose : (E 6).transpose = E 6 := by decide
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/Cartan.lean:268]: Idem dito

File: Mathlib/LinearAlgebra/Matrix/Cartan.lean [hunk 5]
```diff
@@ -244,30 +265,122 @@ theorem G₂_off_diag_nonpos (i j : Fin 2) (h : i ≠ j) : G₂ i j ≤ 0 := by
...
+@[simp] theorem E₇_transpose : (E 7).transpose = E 7 := by decide
+@[simp] theorem E₈_transpose : (E 8).transpose = E 8 := by decide
 
-theorem E₆_isSymm : E₆.IsSymm := E₆_transpose
-theorem E₇_isSymm : E₇.IsSymm := E₇_transpose
-theorem E₈_isSymm : E₈.IsSymm := E₈_transpose
+theorem E₆_isSymm : (E 6).IsSymm := E₆_transpose
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/Cartan.lean:272]: Idem dito

File: Mathlib/LinearAlgebra/Matrix/Cartan.lean [hunk 6]
```diff
@@ -305,16 +418,16 @@ theorem isSimplyLaced_D (n : ℕ) : IsSimplyLaced (D n) := by
   grind
 
 set_option backward.isDefEq.respectTransparency.types false in
-theorem isSimplyLaced_E₆ : IsSimplyLaced E₆ := by
-  rw [Matrix.isSimplyLaced_iff_of_linearOrder E₆ E₆_isSymm]; decide
+theorem isSimplyLaced_E₆ : IsSimplyLaced (E 6) := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/Cartan.lean:421]: Idem dito

File: Mathlib/LinearAlgebra/Matrix/Cartan.lean (hunk 2 above)
Comment (sdflkjssl) [reply Mathlib/LinearAlgebra/Matrix/Cartan.lean]: Generalized.

**Comment by sdflkjssl** [comment]
-awaiting-author

File: Mathlib/LinearAlgebra/Matrix/Cartan.lean [hunk 7]
```diff
@@ -244,30 +278,116 @@ theorem G₂_off_diag_nonpos (i j : Fin 2) (h : i ≠ j) : G₂ i j ≤ 0 := by
...
+@[deprecated "Use `E_isSymm` instead" (since := "2026-08-11")]
+theorem E₈_isSymm : (E 8).IsSymm := E_isSymm 8
 
 /-! ### Exceptional matrix determinants -/
 
 theorem G₂_det : G₂.det = 1 := by decide
 
 theorem F₄_det : F₄.det = 1 := by decide
 
+private def reverseE (n : ℕ) : Matrix (Fin n) (Fin n) ℤ :=
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Cartan.lean]: Is it really necessary to introduce `reverseE`? Could we just define `extendPath` differently and then just work with `E`?

**Review by ocfnash — COMMENTED** [review]
Thanks @sdflkjssl this is in quite good shape now.

I pushed a small commit to implement some minor style improvements but mostly I'm interested in whether we really need to introduce `reverseE`. Do we? I recognise it, and all lemmas about it, are `private` but still if we could just work with `E` then that would be nicer.

**Comment by ocfnash** [comment]
@sdflkjssl I took the liberty of pushing up https://github.com/leanprover-community/mathlib4/pull/42157/commits/58aa3ea5b81aaf99482c0a9e81a799c320ad347b which drops `reverseE` (but was mostly AI-written so surely needs some polish). Please feel free to revert it if you are not convinced. I won't have time to look carefully at this again till tomorrow.

File: Mathlib/LinearAlgebra/Matrix/Cartan.lean (hunk 7 above)
Comment (sdflkjssl) [reply Mathlib/LinearAlgebra/Matrix/Cartan.lean]: Thanks — you are right. I removed `reverseE` entirely in 58aa3ea5b8. `extendPath` now appends a leaf to the *end* of the path using `Fin.lastCases`, and `E_succ : E (n + 1) = extendPath (E n)` works directly on `E` for `n ≥ 4`. The determinant recurrence `det_E_add_two` follows by row expansion along the new row (`Matrix.det_succ_row`), and `E_det` uses `twoStepInduction` with the base cases computed by `decide`/`norm_det`.

File: Mathlib/LinearAlgebra/Matrix/Cartan.lean (hunk 3 above)
Comment (sdflkjssl) [reply Mathlib/LinearAlgebra/Matrix/Cartan.lean]: Generalized to all `n` — see above.

File: Mathlib/LinearAlgebra/Matrix/Cartan.lean (hunk 4 above)
Comment (sdflkjssl) [reply Mathlib/LinearAlgebra/Matrix/Cartan.lean]: Generalized to all `n` — see above.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
